US07473786B1
1-(2-p-tolyl-1H-indol-1-yl)ethanone (entry 4, Table 2):
The general procedure was used to convert 1-iodo-4-methylbenzene and N-(2-ethynylphenyl)acetamide to the title product. Purification by flash chromatography gave the analytically pure product as a white solid, 57% yield. 1H NMR (300 MHz, DMSO) δ 8.24-8.22 (d, J=8.2, 1H), 7.61-7.59 (d, J=6.3, 1H), 7.43-7.40 (d, J=8.0, 2H), 7.36-7.24 (m, 4H), 6.71 (s, 1H), 2.37 (s, 3H), 2.07 (s, 3H). 13C NMR (75 MHz, DMSO) δ 171.94, 140.70, 138.95, 137.81, 131.53, 130.12, 129.67, 129.64, 125.44, 124.26, 121.31, 116.24, 111.41, 28.41, 21.70. Anal. Calcd. for C17H15NO: C, 81.90; H, 6.06; N, 5.62. Found C, 81.66; H, 6.02; N, 5.62. m.p.: 67-69° C.

reactant | 1-iodo-4-methylbenzene | IC1=CC=C(C=C1)C | C7H7I
reactant | N-(2-ethynylphenyl)acetamide | C(#C)C1=C(C=CC=C1)NC(C)=O | C10H9NO
product | 1-(2-p-tolyl-1H-indol-1-yl)ethanone | 57% yield | C1(=CC=C(C=C1)C=1N(C2=CC=CC=C2C1)C(C)=O)C | C17H15NO
